US07157476B2
Ethyl 4-amino-1,2,5-oxadiazole-3-carboxylate:
To a solution of 4-amino-1,2,5-oxadiazole-3-carboxylic acid (0.25 g, 1.9 mmol) in 2 mL of EtOH was added SOCl2 (0.2 mL) dropwise, under cooling with an ice-bath. The resulting mixture was refluxed for 4 hours and then concentrated. The oil was diluted with 50 mL of H2O and extracted with diethyl ether (3×100 mL). The combined organic layer was dried over MgSO4 and concentrated to give a white solid (0.15 g, 50%). 1H NMR (DMSO, 500 MHz) δ 6.39 (s, 2H), 4.39 (q, 2H), 1.35 (t, 3H). Mass Spec. FIA MS 158.1 (M+1).

reactant | 4-amino-1,2,5-oxadiazole-3-carboxylic acid | 1.9 mmol, 0.25 g | NC=1C(=NON1)C(=O)O | C3H3N3O3
reactant | SOCl2 | 0.2 mL | O=S(Cl)Cl | Cl2OS
reactant | EtOH | 2 mL | CCO | C2H6O
product | Ethyl 4-amino-1,2,5-oxadiazole-3-carboxylate | 0.15 g, 50% | NC=1C(=NON1)C(=O)OCC | C5H7N3O3
